US07777031B2
[6-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(4-isopropyl-piperazin-1-yl)-methanone
5-Bromo-2-(3,4-dichloro-phenoxy)-pyridine. To a solution of 2,5-dibromopyridine (2.412 g, 10.18 mmol) in DMF (50 mL) was added K2CO3 (5.22 g, 37.8 mmol) and 3,4-dichlorophenol (2.66 g, 16.3 mmol). The mixture was heated at 90° C. for 18 h then allowed to cool to room temperature (rt). Water was added and the mixture was extracted with DCM. Purification by FCC provided the desired product (3.23 g, 100%). 1H NMR (400 MHz, CDCl3): 8.21 (dd, J=2.5, 0.8 Hz, 1H), 7.81 (dd, J=8.3, 3.0 Hz, 1H), 7.45 (d, J=8.8 Hz, 1H), 7.26 (d, J=1.5 Hz, 1H), 7.00 (dd, J=9.0, 2.5 Hz, 1H), 6.88 (dd, J=8.8, 0.8 Hz, 1H).

reactant | 5-Bromo-2-(3,4-dichloro-phenoxy)-pyridine | BrC=1C=CC(=NC1)OC1=CC(=C(C=C1)Cl)Cl | C11H6BrCl2NO
reactant | 2,5-dibromopyridine | 10.18 mmol, 2.412 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | K2CO3 | 37.8 mmol, 5.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-dichlorophenol | 16.3 mmol, 2.66 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | [6-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(4-isopropyl-piperazin-1-yl)-methanone | 3.23 g, 100% | ClC=1C=C(OC2=CC=C(C=N2)C(=O)N2CCN(CC2)C(C)C)C=CC1Cl | C19H21Cl2N3O2
